US04254036
2-(6-carboxy-phenylthio)-4-hydroxy-cyclopent-2-en-1-one
To a stirred mixture of 54.4 g of 8-(2-furoyl)-8-hydroxy-2-phenylthiooctanoic acid, 0.5 g of hydroquinone, 8.5 ml of dimethoxyethane, and 6.0 ml of water is added 12.0 g of sodium bicarbonate and 122 ml of 90% formic acid. The resulting solution is stirred at reflux temperature for 24 hours. The solution is cooled, treated dropwise with 40 ml of 98% sulfuric acid during 15 min., and then refluxed for 18 hours. The solution is cooled, diluted with ethyl acetate, and saturated with solid NaCl. The organic layer is washed with brine, dried over MgSO4, and concentrated. The residue is subjected to column chromatography on silica gel with chloroform progressively enriched in ether to give an oil.

reactant | 8-(2-furoyl)-8-hydroxy-2-phenylthiooctanoic acid | 54.4 g | O1C(=CC=C1)C(=O)C(CCCCCC(C(=S)O)C1=CC=CC=C1)O | C19H22O4S
reactant | hydroquinone | 0.5 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | sodium bicarbonate | 12.0 g | C([O-])(O)=O.[Na+]
reactant | sulfuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
reactant | NaCl | [Na+].[Cl-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | formic acid | 122 ml | C(=O)O | CH2O2
solvent | water | 6.0 ml | O | H2O
solvent | dimethoxyethane | 8.5 ml | C(OC)COC | C4H10O2
product | 2-(6-carboxy-phenylthio)-4-hydroxy-cyclopent-2-en-1-one | C(=O)(O)C1=CC=CC=C1SC=1C(CC(C1)O)=O | C12H10O4S
